US07411072B2
4-(2,4-Dichloro-benzylidene)-9,10-dihydro-4H-1-thia-benzo[f]azulene (Mixture of E and Z Isomers)
Following the procedures essentially as described in Example 238 and using 9,10-dihydro-1-thia-benzo[f]azulene-4-one (40.8 mg, 0.19 mmol) and 2,4-dichlorobenzyl magnesium chloride (0.575 mmol) in THF:diethyl provides, after dehydration, 30.0 mg (44%) of the title compound as a 3:1 mixture of E- and Z-isomers. 1H NMR (CDCl3) δ 2.88-3.40 (m, 4 H), 6.26 (d, J=4.8 Hz, 1/4 H), 6.50 (d, J=8.2 Hz, 3/4 H); 6.63 (s, 1/4 H, Z), 6.74 (s, 3/4 H), 6.76 (td, J=8.6 Hz, 2.0 Hz, 3/4 H), 6.88 (td, J=8.2 Hz, 1.2 Hz, 3/4 H), 6.96 (s, 3/4 H), 6.95-6.98 (m, 1/4 H), 7.06 (d, J=4.8 Hz, 3/4 H), 7.08-7.20 (m, 14/4 H), 7.28 (d, J=2.0 Hz, 3/4 H), 7.34 (d, J=2.4 Hz, 1/4 H), 7.35-7.38 (m, 1/4 H); TLC shows 0.95% purity: Rf=0.20 (hexanes).

reactant | 9,10-dihydro-1-thia-benzo[f]azulene-4-one | 0.19 mmol, 40.8 mg | S1C=CC=2C(C3=C(CCC12)C=CC=C3)=O | C13H10OS
reactant | 2,4-dichlorobenzyl magnesium chloride | 0.575 mmol | ClC1=C(C[Mg]Cl)C=CC(=C1)Cl
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2,4-Dichloro-benzylidene)-9,10-dihydro-4H-1-thia-benzo[f]azulene | 30.0 mg, 44% | ClC1=C(C=C2C=3C=CSC3CCC3=C2C=CC=C3)C=CC(=C1)Cl | C20H14Cl2S
